US07683064B2
Morpholine (2.98 ml, 34.4 mmol), tert-Butoxy-acetic acid (4.485 g, 34.4 mmol) and HATU (13.093 g, 34.4 mmol) were dissolved in 15 ml dimethylformamide. The reaction mixture was stirred overnight at ambient temperature. It was extracted with ethyl acetate and the organic phase was washed with water, sodium bicarbonate solution, 1M HCl solution and finally with brine. The organic phase was dried over sodium sulfate, filtered, and concentrated to give 2-tert-Butoxy-1-morpholin-4-yl-ethanone (2.170 g, 10.78 mmol).

reactant | Morpholine | 34.4 mmol, 2.98 ml | N1CCOCC1 | C4H9NO
reactant | tert-Butoxy-acetic acid | 34.4 mmol, 4.485 g | C(C)(C)(C)OCC(=O)O | C6H12O3
reactant | HATU | 34.4 mmol, 13.093 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butoxy-1-morpholin-4-yl-ethanone | 10.78 mmol, 2.170 g | C(C)(C)(C)OCC(=O)N1CCOCC1 | C10H19NO3
